.subckt wo_model + - OUT VCC VEE
.lib UniversalOpamps2.sub
XU2 N001 - VCC VEE OUT level.2 Avol=1Meg GBW=0.98Meg Slew=0.43Meg ilimit=25m rail=0.98 Vos=-0.79m phimargin=45 en=0 enk=0 in=0 ink=0 Rin=50Meg
V1 N001 + 0.64m
I1 + 0 230n
I2 - 0 321n
.ends wo_model
