* C:\Users\bhbo9\Documents\PROJECTS\BartoszOStrowski\Elektronika\Odprowadzanie do domu\Draft5.asc
V1 N001 0 5
V2 N002 0 PULSE(0 3.3 0 1m 1m 5 10)
R1 N003 N002 470
D1 N006 N007 NSCW100
R2 N007 0 100
D2 N006 N008 NSCW100
R3 N008 0 100
D3 N006 N009 NSCW100
R4 N009 0 100
D4 N006 N010 NSCW100
R5 N010 0 100
D5 N006 N011 NSCW100
R6 N011 0 100
D6 N006 N012 NSCW100
R7 N012 0 100
D7 N006 N013 NSCW100
R8 N013 0 100
D8 N006 N014 NSCW100
R9 N014 0 100
D9 N006 N015 NSCW100
R10 N015 0 100
R11 N005 N004 3.3k
R12 N001 N005 33k
D10 N005 N001 SS24
XU2 N003 0 N004 0 NC_01 4N25
M2 N006 N005 N001 N001 IRLML6402
.model D D
.lib C:\Users\bhbo9\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\bhbo9\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20
.lib 4N25.sub
.backanno
.end
